US04673692
6.2 g of 3,5-di-t-butyl-4-hydroxybenzophenone and 2.2 g of thiosemicarbazide were dissolved in 20 ml of toluene, and 0.4 g of p-toluenesulfonic acid was added. The solution was refluxed for 16 hours while removing water. After the reaction, dilute hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried, and the solvent was distilled off under reduced pressure. The residue was chromatographed on a silica gel column, and recrystallized from dichloromethane/n-hexane to give 3,5-di-t-butyl-4-hydroxybenzophenone thiosemicarbazone.

reactant | 3,5-di-t-butyl-4-hydroxybenzophenone | 6.2 g | C(C)(C)(C)C=1C=C(C(=O)C2=CC=CC=C2)C=C(C1O)C(C)(C)C | C21H26O2
reactant | thiosemicarbazide | 2.2 g | NNC(=S)N | CH5N3S
reactant | p-toluenesulfonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-di-t-butyl-4-hydroxybenzophenone thiosemicarbazone | C(C)(C)(C)C=1C=C(C(C2=CC=CC=C2)=NNC(=S)N)C=C(C1O)C(C)(C)C | C22H29N3OS
